US03954877
A solution of 8 millimols of cobalt 2-ethylhexoate and 20 millimols of triethylphosphate in 200 ml. of benzene was treated in an autoclave with 1:1 H2 :CO mixture for one hour at 170° C. and 3,700-114 3,750 psig. The autoclave was cooled and vented, and 250 g. of 1,5-cyclooctadiene was added. This mixture was treated with 1:1 H2 :CO at 145°-185° C. and 1,800-3,000 psig. for 3 hours. Distillation of the reactor effluent gave 203 g. of hydroformylation products boiling at 36°-75° C. at 5 mm. Hg pressure and 79 g. of residue. Reduction of a portion of the distilled oxygenated products over a nickel-based catalyst with hydrogen at elevated temperatures and pressures gave a 90% yield of hydroxymethylcyclooctane.

reactant | triethylphosphate | 20 millimols | C(C)OP(=O)(OCC)OCC | C6H15O4P
reactant | 1,5-cyclooctadiene | C1=CCCC=CCC1 | C8H12
catalyst | cobalt 2-ethylhexoate | 8 millimols | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Co+2]
solvent | benzene | C1=CC=CC=C1 | C6H6
product | hydroxymethylcyclooctane | 90% yield | OCC1CCCCCCC1 | C9H18O
